US04324793
30.7 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride in 500 ml of dioxane is reacted with 18.5 g of 1-cyano-2-mercaptonaphthalene. There is obtained 37 g (81% of theory) of 2-(4-nitro-2-trichloromethylphenyldithio)-1-cyanonaphthalene; m.p.: 170° C. (recrystallized from toluene).

reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 30.7 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
reactant | 1-cyano-2-mercaptonaphthalene | 18.5 g | C(#N)C1=C(C=CC2=CC=CC=C12)S | C11H7NS
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 2-(4-nitro-2-trichloromethylphenyldithio)-1-cyanonaphthalene | 37 g, 81% | [N+](=O)([O-])C1=CC(=C(C=C1)SSC1=C(C2=CC=CC=C2C=C1)C#N)C(Cl)(Cl)Cl | C18H9Cl3N2O2S2
